US08735579B2
Tert-butyl 4-{4-[5-(5-tert-butyl-2-methoxy-3-methoxycarbonyl-phenylcarbamoyl)-2-methyl-phenoxy]-pyridin-2-ylmethyl}-piperazine-1-carboxylate
A mixture of 414 mg methyl 5-tert-butyl-3-[3-(2-chloro-pyridin-4-yloxy)-4-methyl-benzoylamino]-2-methoxy-benzoate, 370 mg potassium-(4-tert-butyloxycarbonyl-piperazin-1-ylmethyl)-trifluoroborate, 0.84 g Cs2CO3, 0.80 ml of water and 8 ml of tetrahydrofuran is flushed for 10 min with argon. Then 200 mg of 2-dicyclohexylphosphinyl-2′,4′,6′-triisopropyl-1,1′-biphenyl (XPhos) and 20 mg palladium(II)acetate are added, and the mixture is heated to 80° C. The reaction mixture is stirred overnight at 80° C. in an argon atmosphere. After cooling to ambient temperature the mixture is evaporated down and the residue is taken up in ethyl acetate and water. The organic phase is separated off, washed with water and aqueous saturated saline solution and dried (MgSO4). The solvent is removed, and the residue is chromatographed on silica gel with dichloromethane/methanol (99:1→90:10) and then chromatographed by reversed phase (HPLC, Xbridge C18) with methanol/water/ammonia.

reactant | methyl 5-tert-butyl-3-[3-(2-chloro-pyridin-4-yloxy)-4-methyl-benzoylamino]-2-methoxy-benzoate | 414 mg | C(C)(C)(C)C=1C=C(C(=C(C(=O)OC)C1)OC)NC(C1=CC(=C(C=C1)C)OC1=CC(=NC=C1)Cl)=O | C26H27ClN2O5
reactant | potassium (4-tert-butyloxycarbonyl-piperazin-1-ylmethyl)-trifluoroborate | 370 mg | [K].C(C)(C)(C)OC(=O)N1CCN(CC1)C[B-](F)(F)F
reactant | Cs2CO3 | 0.84 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | 0.80 ml | O | H2O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | Tert-butyl 4-{4-[5-(5-tert-butyl-2-methoxy-3-methoxycarbonyl-phenylcarbamoyl)-2-methyl-phenoxy]-pyridin-2-ylmethyl}-piperazine-1-carboxylate | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1C=CC(=C(OC2=CC(=NC=C2)CN2CCN(CC2)C(=O)OC(C)(C)C)C1)C)OC)C(=O)OC | C36H46N4O7
